Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
vertigo
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt is a ___ yr M w/ no significant PMH who presents for 
persistent
vertigo. Hx obtained with assistance of ___
interpreter.

Pt reports that this past ___ morning he was at home when
he suddenly developed severe room spinning sensation. He 
endorses
associated n/v and fatigue. Vertigo has been persistent since
then with no clear exacerbating or alleviating factors. N/v has
mildly improved. Denies associated dyscoordination, gait issues
or falls. No significant headache, diplopia, dysarthria or
dysphagia. No hearing changes/tinnitus. Denies sensorimotor
deficits. No recent f/c or infectious sx. No recent hx of weight
loss or fatigue. No recent head trauma. No family hx of strokes,
vascular anomalies or malignancy. 

Neurologic and General ROS negative except as noted above

 
Past Medical History:
None
 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission Exam:
===============
Vitals: T: 98.0 P: 90 R: 18  BP: 188/130 SaO2: 98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, injected conjunctiva b/l, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Vague historian. Attentive
to examiner. Language appears fluent with intact comprehension.
Normal prosody. Speech was not dysarthric. Able to follow both
midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

Delt Bic Tri WrE WrF FFl FE  IO  APB IP  Qu  ___  ___
 ----|---|---|---|---|---|---|---|---|---|---|---|---|----|---|
 R ___   ___   ___   ___   5   5    5
 L ___   ___   ___   ___   5   5    5
 

-Sensory: No deficits to light touch, temperature, vibratory
sense, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-DTRs:
       Biceps Triceps Brachioradialis Knee Ankle
 Right   2+      2+         2+         1   1
 Left    2+      2+         2+         1   1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor. ?Minimal dysmetria on FNF on
L.  

-Gait: Good initiation. Mildly wide-based gait with normal 
stride
and steppage. 

Discharge Exam
===============
General: Awake, cooperative, NAD.
HEENT: AT, bony parietal bone prominence noted, not tender to
palpation, non-injected conjunctiva, MMM
Neck: Supple, no nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: warm, well-perfused
Abdomen: non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted
 
Neurologic:
-Mental Status: Alert, oriented and attentive to examiner.
Language appears fluent with good comprehension (evaluation
limited by language barrier). Normal prosody
and appropriate affect. Speech is not dysarthric. Able to follow
both midline and appendicular commands. 

-Cranial Nerves:
PERRL 3 to 2mm and brisk. EOMI without nystagmus. Normal
saccades. No facial droop, facial musculature symmetric.

- Motor: ___ strength bilaterally 

-Sensory: No deficits to light touch. 

-DTRs: deferred

-___: No intention tremor. FNF on L is slower than the
right, but no dysmetria. Rapid alternating movements are
symmetric bilaterally.

-Gait: steady, normal stance and steppage. 

 
Pertinent Results:
___ 06:40AM BLOOD Glucose-98 UreaN-17 Creat-1.3* Na-145 
K-4.2 Cl-108 HCO3-24 AnGap-13
___ 06:18AM BLOOD ALT-12 AST-18 LD(LDH)-201 CK(CPK)-207 
AlkPhos-95 TotBili-0.3
___ 06:18AM BLOOD CK-MB-5 cTropnT-<0.01
___ 02:26PM BLOOD %HbA1c-6.1* eAG-128*
___ 06:18AM BLOOD Triglyc-70 HDL-35* CHOL/HD-4.1 LDLcalc-93
___ 12:40PM BLOOD PEP-POLYCLONAL FreeKap-33.7* FreeLam-20.3 
Fr K/L-1.7* IgG-___* IgA-256 IgM-151
 
Brief Hospital Course:
Mr. ___ is a ___ year-old male ___ speaking) who
has no known PMH and does not receive regular primary care who
presents for vertigo x 5 days, found to have
a subacute left inferior cerebellar hemorrhage. Etiology likely
hypertensive bleed.

Mr. ___ exam was initially significant for mild LUE 
dysmetria, which improved prior to discharge. 

Given hypertensive bleed, BP was kept < 150. Initially, required 
nicard ggt then transitioned to Captopril and 
hydrochlorothiazide. Captopril was transitioned to Lisionpril. 
These will be continued at home.

Secondary causes for hypertension worked up. Renal artery u/s 
normal. Renin and Aldosterone pending. 

Imaging: 
MR HEAD W & W/O CONTRAST:
1. 1.6 cm intraparenchymal hematoma in the left medial
cerebellum. Other punctate microhemorrhages are seen in the
bilateral basal ganglia and right cerebellum. Given findings,
this likely represents a hypertensive hemorrhage
in the background of prior hypertensive microhemorrhages.
2. Heterogeneously enhancing lesion in the left parietal
calvarium eroding through the inner and outer tables. Given its
CT findings, an aggressive fibro-osseous neoplasm is considered.
3. No acute infarct.

Oncology was involved given the skull mass. CT 
chest/abdomen/pelvis was performed to look for other signs of 
malignancy, which was negative. Workup for multiple myeloma was 
performed and was negative. Ultimately, the incidentally found 
parietal skull mass was reviewed in neuro-radiology and was felt 
to be consistent with benign fibrous dysplasia. This will be 
followed by neurology/neurosurgery with serial scans. 

Transitional issues:
- started on BP meds: Lisinopril, hydrochlorothiazide
- follow up with neurology in 3 months
- serial scans for fibrous dysplasia 

1. Dysphagia screening before any PO intake? (x) Yes - () No.  
If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(bleeding risk, hemorrhage, etc.) 
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No. If no, why not? (I.e. patient at 
baseline functional status) 

 
Medications on Admission:
None
 
Discharge Medications:
1.  Hydrochlorothiazide 12.5 mg PO DAILY 
RX *hydrochlorothiazide 12.5 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*2 
2.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemorrhagic left cerebellar stroke
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of dizziness, nausea, and 
vomiting resulting from a HEMORRHAGIC STROKE, a condition where 
a there is some bleeding inside the brain. The brain is the part 
of your body that controls and directs all the other parts of 
your body, so damage to the brain from bleeding can result in a 
variety of symptoms. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: 

- High blood pressure 

We are changing your medications as follows: 

- lisinopril 40 mg, hydrochlorothiazide 12.5 mg 

Please follow up with Neurology and your primary care physician 
as listed below. Please obtain these medications from the ___ 
___ Pharmacy in the lobby of the ___ building.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms: 
- Sudden partial or complete loss of vision 
- Sudden loss of the ability to speak words from your mouth 
- Sudden loss of the ability to understand others speaking to 
you 
- Sudden weakness of one side of the body 
- Sudden drooping of one side of the face 
- Sudden loss of sensation of one side of the body 

Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___